US04916241
Step (1) Preparation of α-([1,1'-Biphenyl]-3-yl)-α-methyl-3-furanmethanol
To a solution of 14.5 g (0.1 mol) of 3-bromofuran in 500 mL of THF cooled to -78° C. was added dropwise a solution of 64 mL (0.12 mol) to n-butyl lithium in THF. The solution was allowed to stir for 3 hours after the addition was complete, whereupon a solution of 19 g (0.1 mol) 4-acetylbiphenyl in 200 mL of THF was added. The mixture was allowed to stir for 1 hour, then warmed to room temperature. The mixture was then poured into water and extracted with ether (2×500 mL). The ether layers were combined, dried (MgSO4) and concentrated to afford 19.5 g of crude solid. The solid was recrystallized from ether:hexane to afford 12.5 g, 47% of light yellow solid, m.p. 108°-109° C.

reactant | 3-bromofuran | 0.1 mol, 14.5 g | BrC1=COC=C1 | C4H3BrO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-acetylbiphenyl | 0.1 mol, 19 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12O
reactant | water | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | α-([1,1'-Biphenyl]-3-yl)-α-methyl-3-furanmethanol | C1(=CC(=CC=C1)C(O)(C1=COC=C1)C)C1=CC=CC=C1 | C18H16O2
